US05650533
A mixture of crude t-butyl 2-[2-bromo-3-(2-methoxyethoxy)-4-methylsulphonylbenzoyl]-3-cyclopropyl-3-oxopropanoate (10.2 g) and 4-toluenesulphonic acid (2 g) in dry toluene was stirred and heated at reflux for 2 hours. The cooled mixture was washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness to give 3-cyclopropyl-1-[2-bromo-3-(2-methoxyethoxy)-4-methylsulphonylphenyl]propan-1,3-dione (7.5 g) as a brown oil which was not purified further NMR(CDCl3) 0.9(4H, m), 1.5(1H, m), 3.1(3H, s), 3.3(3H,s), 3.6(2H, t), 4.2(2H, t), 5.7(1H, s), 7.15(1H, d), 7.8(1H, d).

reactant | t-butyl 2-[2-bromo-3-(2-methoxyethoxy)-4-methylsulphonylbenzoyl]-3-cyclopropyl-3-oxopropanoate | 10.2 g | BrC1=C(C(=O)C(C(=O)OC(C)(C)C)C(=O)C2CC2)C=CC(=C1OCCOC)S(=O)(=O)C | C21H27BrO8S
reactant | 4-toluenesulphonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopropyl-1-[2-bromo-3-(2-methoxyethoxy)-4-methylsulphonylphenyl]propan-1,3-dione | 7.5 g | C1(CC1)C(CC(=O)C1=C(C(=C(C=C1)S(=O)(=O)C)OCCOC)Br)=O | C16H19BrO6S
